US07449475B2
(iii) 1′-benzyl-5-methyl-3H-spiro[1-benzofuran-2,4′-piperidine]
To a suspension of NaH (55% in mineral oil, 200 mg, 5 mmol) in toluene (10 mL) was slowly added a solution of crude 1-benzyl-4-(2-fluoro-5-methylbenzyl)piperidin-4-ol in toluene (15 mL). After addition was completed, the reaction mixture was heated to 110° C. and stirred for 5 min. DMF (9 mL) was added and stirring was continued at reflux temperature for 10 h. The reaction mixture was cooled to room temperature, poured into water (50 ml), and extracted with ethyl acetate (2×25 ml). The organic layer was dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel flash chromatography (ethyl acetate/n-heptane) to give the subtitle compound (240 mg, 41%).

reactant | NaH | 5 mmol, 200 mg | [H-].[Na+]
reactant | 1-benzyl-4-(2-fluoro-5-methylbenzyl)piperidin-4-ol | C(C1=CC=CC=C1)N1CCC(CC1)(O)CC1=C(C=CC(=C1)C)F | C20H24FNO
reactant | DMF | 9 mL | CN(C)C=O | C3H7NO
reactant | water | 50 ml | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 1′-benzyl-5-methyl-3H-spiro[1-benzofuran-2,4′-piperidine] | 240 mg, 41% | C(C1=CC=CC=C1)N1CCC2(CC1)OC1=C(C2)C=C(C=C1)C | C20H23NO
